US04618606
To a solution of 2.6 g of 1-carboxymethyl-2,3-dioxo-1,2,3,4-tetrahydropyrazine in 13 ml of N,N-dimethylacetamide was added 3.9 g of diphenyldiazomethane at room temperature, and the mixture was subjected to reaction for for 10 minutes. The reaction mixture was introduced into a mixed solvent of 25 ml of ethyl acetate and 25 ml of water, and the mixture was stirred for 15 minutes. Precipitated crystals were collected by filtration, and washed with 10 ml of ethyl acetate and 10 ml of diethyl ether in this order to obtain 2.9 g (yield, 80.4%) of 1-diphenylmethyloxycarbonylmethyl-2,3-dioxo-1,2,3,4-tetrahydropyrazine having a melting point of 97°-98° C.

reactant | 1-carboxymethyl-2,3-dioxo-1,2,3,4-tetrahydropyrazine | 2.6 g | C(=O)(O)CN1C(C(NC=C1)=O)=O | C6H6N2O4
reactant | diphenyldiazomethane | 3.9 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 25 ml | O | H2O
solvent | N,N-dimethylacetamide | 13 ml | CN(C(C)=O)C | C4H9NO
product | 1-diphenylmethyloxycarbonylmethyl-2,3-dioxo-1,2,3,4-tetrahydropyrazine | 2.9 g, 80.4% | C1(=CC=CC=C1)C(OC(=O)CN1C(C(NC=C1)=O)=O)C1=CC=CC=C1 | C19H16N2O4
